US08455528B2
Benzenecarboximidamide (2.9 g, 24 mmol), 4-bromoacetylbenzonitrile (5 g, 22 mmol), and sodium bicarbonate (1.8 g, 22 mmol) were suspended in 70 mL of THF and 10 mL of water and heated at reflux overnight. The reaction mixture was cooled rt, and partially concentrated. An additional 10 mL of water was added, and the resulting suspension was stirred at 50-60° C. for 30 min. The mixture was cooled with an ice-water bath and the precipitate was collected by filtration, rinsed with two 10-mL portions of water, and air-dried. The solid material was stirred with 15 mL of EtOAc and 15 mL of hexanes, and was again collected by filtration, and dried to give 4-(2-phenyl-1H-imidazol-4-yl)benzonitrile. LCMS: min [M+1]=246.

reactant | Benzenecarboximidamide | 24 mmol, 2.9 g | C1(=CC=CC=C1)C(N)=N | C7H8N2
reactant | 4-bromoacetylbenzonitrile | 22 mmol, 5 g | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
reactant | sodium bicarbonate | 22 mmol, 1.8 g | C([O-])(O)=O.[Na+]
reactant | water | 10 mL | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-(2-phenyl-1H-imidazol-4-yl)benzonitrile | C1(=CC=CC=C1)C=1NC=C(N1)C1=CC=C(C#N)C=C1 | C16H11N3
